US04061647
4-(2,4-Dichloro-5-sulfamoylphenyl)-3-cyclopropyl-2-cyclopropylimino-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to that described in Example 10 from 3.5 g of 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone and 1.6 g of 1,3-dicyclopropyl-thiourea. M.p. 226° C (decomposition).

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone | 3.5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | 1,3-dicyclopropyl-thiourea | 1.6 g | C1(CC1)NC(=S)NC1CC1 | C7H12N2S
product | 4-(2,4-Dichloro-5-sulfamoylphenyl)-3-cyclopropyl-2-cyclopropylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NC1CC1)C1CC1)O | InChI=1S/C15H17Cl2N3O3S2.BrH/c16-11-6-12(17)13(25(18,22)23)5-10(11)15(21)7-24-14(19-8-1-2-8)20(15)9-3-4-9;/h5-6,8-9,21H,1-4,7H2,(H2,18,22,23);1H
